US07521403B2
To a rapidly stirred mixture of oleylamine (118.5 g), diether (200 mL), Na2CO3 (50.29 g) and water (500 mL) is added chloroacetyl chloride (54.16 g) dropwise over 60 min. Intermittent cooling is applied to maintain temperature between 10-15° C. After completion of addition, the mixture is stirred for 60 min, and the phases are allowed to separate. Analysis (H-NMR) of a sample of the upper ether layer indicates that a small amount of amine is not reacted. Additional Na2CO3 (7 g) and water (50 mL) is added, followed by chloroacetyl chloride (7 g). The upper ether phase is removed, the aqueous phase extracted with additional ether (200 mL), and the combined organic phase is washed with water (2×125 mL portions), saturated NaCl (125 mL), dried over anh. Na2SO4, and the solvent removed in vacuo to give 149 g of 2-chloro-N-oleylacetamide.

reactant | oleylamine | 118.5 g | C(CCCCCCC\C=C/CCCCCCCC)N | C18H37N
reactant | Na2CO3 | 50.29 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | chloroacetyl chloride | 54.16 g | ClCC(=O)Cl | C2H2Cl2O
reactant | Na2CO3 | 7 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | chloroacetyl chloride | 7 g | ClCC(=O)Cl | C2H2Cl2O
solvent | water | 50 mL | O | H2O
solvent | water | 500 mL | O | H2O
product | 2-chloro-N-oleylacetamide | 149 g | ClCC(=O)NCCCCCCCC\C=C/CCCCCCCC | C20H38ClNO
